US06897224B2
5-[4-(4-Chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]-quinoline-2-carboxylic acid amide
Analogously to Example 37, 160 mg (0.87 mmol) of 5-aminoquinoline-2-carboxylic acid amide is reacted with 341 mg (1.05 mmol) of 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal in 0.96 ml of concentrated acetic acid and 20 ml of toluene. After purification on silica gel with hexane-ethyl acetate (0-100%), 340 mg (79% of theory) of the product is obtained.

reactant | 5-aminoquinoline-2-carboxylic acid amide | 0.87 mmol, 160 mg | NC1=C2C=CC(=NC2=CC=C1)C(=O)N | C10H9N3O
reactant | 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.05 mmol, 341 mg | ClC1=CC(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
solvent | acetic acid | 0.96 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(4-Chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]-quinoline-2-carboxylic acid amide | ClC1=CC(=C(C=C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)OC | C24H23ClF3N3O3
